US08134001B2
In a manner similar to the method described in example 1d, 5-bromo-2-{4-[3-(tert-butyl-dimethyl-silanyloxy)-propyl]-phenoxy}-benzaldehyde (4.72 g, 10.5 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (2.18 mL, 10.5 mmol), n-butyllithium (2.5 M, 4.2 mL, 10.5 mmol), trimethylsilyl chloride (1.33 mL, 10.5 mmol), triethylamine (1.89 mL, 13.6 mmol) and acetyl chloride (0.97mL, 13.6 mmol) to give crude 1-{5-bromo-2-{4-[3-(tert-butyl-dimethyl-silanyloxy)-propyl]-phenoxy}-phenyl}-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 5-bromo-2-{4-[3-(tert-butyl-dimethyl-silanyloxy)-propyl]-phenoxy}-benzaldehyde | 10.5 mmol, 4.72 g | BrC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)CCCO[Si](C)(C)C(C)(C)C | C22H29BrO3Si
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 10.5 mmol, 2.18 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 10.5 mmol, 2.5 M, 4.2 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 10.5 mmol, 1.33 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 13.6 mmol, 1.89 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 13.6 mmol, 0.97mL | C(C)(=O)Cl | C2H3ClO
product | 1-{5-bromo-2-{4-[3-(tert-butyl-dimethyl-silanyloxy)-propyl]-phenoxy}-phenyl}-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1=CC=C(C=C1)CCCO[Si](C)(C)C(C)(C)C | C27H40BrNO3Si2
